US07163936B2
To a solution of methyl (3S)-3-aminobutanoate (1.47 g, 12.5 mmol) in THF (30 ml) were added at 0° C. allyl chloroformate (1.60 ml, 15.1 mmol) and diisopropylethylamine (2.62 ml, 15.0 mmol), and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was poured into water and extracted twice with ethylacetate. The organic layer was washed with a saturated aqueous sodium chloride solution, was dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was purified by silica gel (25 g) chromatography to give methyl (3S)-3-{[(allyloxy)carbonyl]amino}butanoate (2.06 g, 81%).

reactant | methyl (3S)-3-aminobutanoate | 12.5 mmol, 1.47 g | N[C@H](CC(=O)OC)C | C5H11NO2
reactant | allyl chloroformate | 15.1 mmol, 1.60 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | diisopropylethylamine | 15.0 mmol, 2.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | methyl (3S)-3-{[(allyloxy)carbonyl]amino}butanoate | 2.06 g, 81% | C(C=C)OC(=O)N[C@H](CC(=O)OC)C | C9H15NO4
